US07199147B2
Acetonitrile (5 ml), potassium carbonate (3.1 mmol, 423 mg) and N-carboethoxyphthalimide (3.1 mmol, 670 mg) were added to a solution of cis-3-amino-4,4-dimethylcyclohexanol hydrochloride (500 mg, 2.8 mmol) in water (10 ml), and the resulting mixture was stirred as it was for 2 hours. The crystals precipitated were collected by filtration and then recrystallized from chloroform-diethyl ether to obtain cis-2-(5-hydroxy-2,2-dimethylcyclohexyl)-1H-isoindole-1,3(2H)-dione (400 mg, 53%, containing about 10% of trans isomer) as white powder.

reactant | Acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | potassium carbonate | 3.1 mmol, 423 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-carboethoxyphthalimide | 3.1 mmol, 670 mg | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | cis-3-amino-4,4-dimethylcyclohexanol hydrochloride | 2.8 mmol, 500 mg | Cl.N[C@H]1C[C@H](CCC1(C)C)O
solvent | water | 10 ml | O | H2O
product | cis-2-(5-hydroxy-2,2-dimethylcyclohexyl)-1H-isoindole-1,3(2H)-dione | 400 mg | O[C@H]1CCC([C@H](C1)N1C(C2=CC=CC=C2C1=O)=O)(C)C | C16H19NO3
